US05840732
iii) Synthesis of 5-butylidene-3-[4-(imidazo[1,2-a]pyridin-5-ylsulfinyl)butyl]thiazolidine-2,4-dione
To a solution of 0.33 g (0.98 mmol) of 3-[4-(imidazo[1,2-a]pyridin-5-ylsulfinyl)butyl]thiazolidine-2,4-dione and 0.10 ml (1.1 mmol) of n-butyraldehyde in 5 ml of ethanol, 0.01 ml (0.1 mmol) of piperidine was added, followed by refluxing for 2 hours. After the reaction was cooled, the solvent was distilled off. The residue was dissolved in chloroform, washed with saturated aqueous sodium hydrogen carbonate and dried, after which the solvent was distilled off. The residue was purified by column chromatography (eluent, n-hexane/ethyl acetate=1/4→ethyl acetate) to yield 0.287 g (74.8%, yellow oily substance) of the desired product.

reactant | 3-[4-(imidazo[1,2-a]pyridin-5-ylsulfinyl)butyl]thiazolidine-2,4-dione | 0.98 mmol, 0.33 g | N=1C=CN2C1C=CC=C2S(=O)CCCCN2C(SCC2=O)=O | C14H15N3O3S2
reactant | n-butyraldehyde | 1.1 mmol, 0.10 ml | C(CCC)=O | C4H8O
reactant | piperidine | 0.1 mmol, 0.01 ml | N1CCCCC1 | C5H11N
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 5-butylidene-3-[4-(imidazo[1,2-a]pyridin-5-ylsulfinyl)butyl]thiazolidine-2,4-dione | C(CCC)=C1C(N(C(S1)=O)CCCCS(=O)C1=CC=CC=2N1C=CN2)=O | C18H21N3O3S2
